US04268510
N-(1-hydroxy-2,2,2-trichloroethyl)-5-methoxycarbonylanthranilamide (5 g.) and concentrated sulphuric acid (100 ml.) were heated together on a steam bath for 15 minutes, cooled, and poured onto a minimum quantity of ice. The precipitate thus formed was filtered off, dried and dissolved in hot ethanol (300 ml.). The ethanol solution was concentrated to 20 ml. and the solid produced was filtered off and discarded. The filtrate was further concentrated to 10 ml. and the product thus obtained was filtered off, dried and crystallised from glacial acetic acid/water, 1:1, to give 1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylic acid, m.p. > 280° C.

reactant | N-(1-hydroxy-2,2,2-trichloroethyl)-5-methoxycarbonylanthranilamide | 5 g | OC(C(Cl)(Cl)Cl)NC(C=1C(N)=CC=C(C1)C(=O)OC)=O | C11H11Cl3N2O4
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2-dihydro-4-oxo-2-trichloromethylquinazoline-6-carboxylic acid | O=C1NC(NC2=CC=C(C=C12)C(=O)O)C(Cl)(Cl)Cl | C10H7Cl3N2O3
